US08314108B2
2-(3-(5-Bromopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenol
5-Bromo-N-(5-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-yl)pyrazin-2-amine (3.1 g, 6.43 mmol) is dissolved in MeOH (100 mL). HCl gas is bubbled through the reaction mixture for 20 min. The mixture is stirred for 2 h and solvent is removed under reduced pressure. The residue is redissolved in 3:1 chloroform/isopropanol (100 mL) and combined with saturated NaHCO3 solution (100 mL). The layers are separated and the aqueous layer is extracted with ethyl acetate (3×50 mL). The combined organic layers are concentrated and triturated with methanol to give 1.5 g (64%) of a brown solid.

reactant | 5-Bromo-N-(5-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-yl)pyrazin-2-amine | 6.43 mmol, 3.1 g | BrC=1N=CC(=NC1)NC1=NNC(=C1)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OC | C22H20BrN5O3
solvent | MeOH | 100 mL | CO | CH4O
product | 2-(3-(5-Bromopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenol | 1.5 g, 64% | BrC=1N=CC(=NC1)NC1=NNC(=C1)C1=C(C=CC=C1OC)O | C14H12BrN5O2
